US07687491B2
(11d) 5-({[t-Butyl(dimethyl)silyl]oxy}methyl)-N′-hydroxy-3-methylthiophene-2-carboximidamide
The crude product of the title compound was synthesized by conducting the reaction similar to that mentioned in Example 1 (1d) using 5-({[t-butyl(dimethyl)silyl]oxy}methyl)-3-methylthiophene-2-carbonitrile (2.5 g, 9.2 mmol) that was obtained in Example 11 (11c) and a 40% aqueous solution of hydroxylamine (20 mL). Subsequently, the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (0:10 to 5:95) as the eluent to afford the title compound (1.4 g) in a yield of 52% as a white crystalline solid.

reactant | 5-({[t-butyl(dimethyl)silyl]oxy}methyl)-3-methylthiophene-2-carbonitrile | 9.2 mmol, 2.5 g | [Si](C)(C)(C(C)(C)C)OCC1=CC(=C(S1)C#N)C | C13H21NOSSi
reactant | hydroxylamine | 20 mL | NO | H3NO
product | 5-({[t-Butyl(dimethyl)silyl]oxy}methyl)-N′-hydroxy-3-methylthiophene-2-carboximidamide | [Si](C)(C)(C(C)(C)C)OCC1=CC(=C(S1)C(N)=NO)C | C13H24N2O2SSi
